US04379788
(a) 2-[4-(3-Chloro-propoxy)-phenyl]-8-methoxy-3,4-dihydro-quinazolin-4-one
2.7 gm (10 mmols) of 2-(4-hydroxy-phenyl)-6-methoxy-3,4-dihydro-quinazolin-4-one were dissolved in 30 ml of sulfolane, and the solution was mixed with 1.5 gm (10 mmols+10%) of potassium carbonate. The resulting clear solution was admixed with 2.7 ml of 1-bromo-3-chloropropane, and the reaction mixture was stirred until the reaction was complete. After pouring it into ice water, the aqueous mixture was extracted with ethyl acetate, and the combined organic extracts were dried over sodium sulfate and evaporated. A colorless oil was obtained, which crystallized upon cooling.

reactant | 2-(4-hydroxy-phenyl)-6-methoxy-3,4-dihydro-quinazolin-4-one | 10 mmols, 2.7 gm | OC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1)=O)OC | C15H12N2O3
reactant | potassium carbonate | 10 mmols, 1.5 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 2.7 ml | BrCCCCl | C3H6BrCl
solvent | sulfolane | 30 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2-[4-(3-Chloro-propoxy)-phenyl]-8-methoxy-3,4-dihydro-quinazolin-4-one | ClCCCOC1=CC=C(C=C1)C1=NC2=C(C=CC=C2C(N1)=O)OC | C18H17ClN2O3
